US08471005B2
The compound was prepared in an analogous fashion to Example 69 replacing 1-(4-Nitro-phenyl)-piperazine with 1-(3-Nitro-phenyl)-piperazine and 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine with 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine to afford 28.66 mg of (S)-1-(4-{3-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol as a lyophilized powder. (M+H)=463.12. 1H NMR (400 MHz, DMSO, d6) δ 9.41 (s, 1H), 9.02 (s, 1H), 8.39 (m, 1H), 8.06 (d, 1H, J=7.85 Hz), 7.48 (m, 3H), 7.26 (m, 3H), 6.98 (d, 1H, J=4.81 Hz), 6.67 (dd, 1H, J=2.00, 6.16 Hz), 4.12 (m, 2H), 3.66 (m, 2H), 3.53 (m, 2H), 3.17 (m, 3H), 3.11 (m, 2H), 1.14 (d, 3H, J=6.16 Hz).

reactant | 1-(4-Nitro-phenyl)-piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 1-(3-Nitro-phenyl)-piperazine | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1 | C10H13N3O2
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C | C13H10ClN3OS
product | (S)-1-(4-{3-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol | 28.66 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)N2CCN(CC2)C[C@H](C)O | C25H27ClN6O
